US06329380B1
Step A: 1-Benzyloxycarbonyl-3-hydroxymethylpiperidine
To a stirred solution of 3-hydroxymethylpiperidine (5 g, 43.4 mmol, 1 eq) in CHCl3 (150 mL) was added saturated aqueous NaHCO3 (150 mL). To the vigorously stirred mixture was added benzyl-chloroformate (6.8 mnL, 47.74 mmol, 1.1 eq) via syringe. The mixture was stirred 5 h. The layers were separated and the aqueous layer was extracted 2× with CH2Cl2. The organic layers were combined, dried over anhydrous Na2SO4, filtered and concentrated. The material was used crude.

reactant | 3-hydroxymethylpiperidine | 43.4 mmol, 5 g, 1 eq | OCC1CNCCC1 | C6H13NO
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
reactant | benzyl-chloroformate | 47.74 mmol, 1.1 eq | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyloxycarbonyl-3-hydroxymethylpiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CO | C14H19NO3
